US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 3-methoxy-phenylboronic acid to give [1-(3-methoxy-phenyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 331 (MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 3-methoxy-phenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | [1-(3-methoxy-phenyl)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C(C=CC1)C1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C20H18N4O
